US07947706B2
To a solution of 600 mg of ethyl 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate in 62 mL of a 3N solution of ammonia in methanol are added 11 mL of 22% aqueous ammonia solution. The reaction mixture is stirred for 20 hours in an autoclave at 80° C. (12 bar) and then concentrated under reduced pressure. The residue obtained is diluted in 100 mL of methanol, treated with carbon black and refluxed for 30 minutes. The mixture is filtered while hot through Celite and then rinsed with 2×10 mL of methanol. The filtrate is concentrated under reduced pressure to give 490 mg of 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide in the form of a foam, the characteristics of which are as follows:

reactant | ethyl 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 600 mg | NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)OCC | C16H15N3O2
reactant | ammonia | N | H3N
reactant | ammonia | 11 mL | N | H3N
reactant | carbon black | C | CH4
solvent | methanol | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
product | 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | 490 mg | NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N | C14H12N4O
